US07223788B2
tert-Butyl [1-(4-{[4-(4-Chlorophenyl)piperidin-1-carbonyl]amino}-phenyl)azetidin-3-yl]methylcarbamate
tert-Butyl [1-(4-aminophenyl)azetidin-3-yl]methylcarbamate was reacted with carbonyldiimidazole and 4-(4-chlorophenyl)piperidine by method A. This resulted in the product with the molecular weight of 499.06 (C27H35ClN4O3; MS (ESI): 499 (M+H+).

reactant | tert-Butyl [1-(4-aminophenyl)azetidin-3-yl]methylcarbamate | NC1=CC=C(C=C1)N1CC(C1)CNC(OC(C)(C)C)=O | C15H23N3O2
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4-chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
product | tert-Butyl [1-(4-{[4-(4-Chlorophenyl)piperidin-1-carbonyl]amino}-phenyl)azetidin-3-yl]methylcarbamate | ClC1=CC=C(C=C1)C1CCN(CC1)C(=O)NC1=CC=C(C=C1)N1CC(C1)CNC(OC(C)(C)C)=O | C27H35ClN4O3
